US08859773B2
Step 2: 6-bromo-N-methyl-1H-indazol-3-amine
Anhydrous hydrazine (0.25 mL, 8.1 mmol) was added to a solution of 4-bromo-2-fluoro-N-methylbenzothioamide (200 mg, 0.8 mmol) in dimethylsulfoxide (2.5 mL). The reaction was heated to 100° C. and stirred for 2 hours. The reaction was cooled to room temperature and diluted with ethyl acetate and water. The layers were separated and the aqueous was extracted with ethyl acetate (3×). The combined organics were washed with saturated aqueous sodium carbonate and brine, dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography (20-100% ethyl acetate/heptanes) gave the title compound (98 mg, 54%) as a white solid. +ESI (M+H+1) 228.0; 1H NMR (400 MHz, CD3OD, δ): 7.52 (d, J=8.58 Hz, 1H), 7.43 (s, 1H), 7.04 (d, J=8.39 Hz, 1H), 2.94 (s, 3H).

reactant | hydrazine | 8.1 mmol, 0.25 mL | NN | H4N2
reactant | 4-bromo-2-fluoro-N-methylbenzothioamide | 0.8 mmol, 200 mg | BrC1=CC(=C(C(NC)=S)C=C1)F | C8H7BrFNS
solvent | dimethylsulfoxide | 2.5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-bromo-N-methyl-1H-indazol-3-amine | 98 mg, 54% | BrC1=CC=C2C(=NNC2=C1)NC | C8H8BrN3
